US08293909B2
Ethyl 3-(4-fluorophenyl)-3-oxopropanoate (2.6 g, 12 mmol) was dissolved into DCM (32 mL), cooled to 0° C. and treated with tetra-n-butylammonium tribromide (6.75 g, 14.0 mmol). The reaction mixture was stirred at 0° C. for 1 h, rt for 1 h and then washed with sat NaHCO3 (aq) (2×50 mL), dried (MgSO4), filtered and concentrated. The crude material was dissolved into EtOH (60 mL) and then 5-bromopyridin-2-amine (6.22 g, 36.0 mmol) was added and the reaction was stirred at 70° C. under nitrogen overnight (complete by LCMS). The reaction mixture was diluted with DCM (˜120 mL), washed with sat. NaHCO3 (aq) (2×100 mL) and the organic layer was dried (MgSO4), filtered and concentrated. The resulting solid was dissolved into DCM (˜30 mL), diluted with hexanes (˜70 mL) and stirred. The solids were filtered away (contained some desired product) and the mother liquor was concentrated, dissolved into DCM and purified by Biotage Horizon (40M, 10% EtOAc/hex, SiO2) (the compound crashed out in the instrument resulting in an unknown quantity being shunted to waste). The collected fractions had solid material precipitating out which was collected by filtration to yield ethyl 6-bromo-2-(4-fluorophenyl)imidazo[1,2-a]pyridine-3-carboxylate (594 mg, 1.636 mmol, 13% yield) as a white fluffy solid. 1H NMR (500 MHz, CDCl3) δ ppm 9.60 (s, 1H), 7.75 (d, J=8.4 Hz, 1H), 7.74 (d, J=8.4 Hz, 1H), 7.62 (d, J=9.2 Hz, 1H), 7.52 (dd, J=9.2, 1.5 Hz, 1H), 7.13 (d, J=8.5 Hz, 1H), 7.12 (d, J=8.5 Hz, 1H), 4.33 (q, J=7.1 Hz, 2H), 1.25 (t, J=7.1 Hz, 3H). LCMS: m/e=743 (M+H)+, retention time=2.24 min, (Column=(2)phenomenex 4.6×50 mmC18 10 um, Solvent A=10% MeOH-90% H2O-0.1% TFA, Solvent B=90% MeOH-10% H2O-0.1% TFA Start % B=0, Final % B=100, Gradient Time=2 min, Hold time=1 min, Flow Rate=5 mL/min) LC-MS retention time 2.04 min; m/z 362, 364 (MH+). LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Phenomenex-Luna 10 u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 mL/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 3 min, a hold time of 1 min, and an analysis time of 4 min where solvent A was 10% acetonitrile/90% H2O/0.1% trifluoroacetic acid and solvent B was 10% H2O/90% acetonitrile/0.1% trifluoroacetic acid. MS data was determined using a Micromass Platform for LC in electrospray mode.

reactant | Ethyl 3-(4-fluorophenyl)-3-oxopropanoate | 12 mmol, 2.6 g | FC1=CC=C(C=C1)C(CC(=O)OCC)=O | C11H11FO3
reactant | tetra-n-butylammonium tribromide | 14.0 mmol, 6.75 g | [Br-].[Br-].[Br-].C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 5-bromopyridin-2-amine | 36.0 mmol, 6.22 g | BrC=1C=CC(=NC1)N | C5H5BrN2
solvent | DCM | ˜120 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 32 mL | C(Cl)Cl | CH2Cl2
product | ethyl 6-bromo-2-(4-fluorophenyl)imidazo[1,2-a]pyridine-3-carboxylate | 1.636 mmol, 594 mg, 13% yield | BrC=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C=C2)F)C(=O)OCC | C16H12BrFN2O2
